US08211901B2
Preparation of N-(2-amino-4-fluorophenyl)-6-(7-methoxyquinolin-4-yloxy)-1-naphthamide
The title compound (33.1 mg, 73% yield) was prepared as a brown solid from 6-(7-methoxyquinolin-4-yloxy)-1-naphthoic acid (34.5 mg, 0.1 mmol) and 4-fluoro-o-phenylenediamine (15.1 mg, 0.12 mmol) by an analogous procedure to that described in example 16. 1H NMR (DMSO-d6) δ 3.95 (s, 3H, —OCH3), 5.27 (s, 2H, benzene-NH2), 6.41 (td, J=2.5 and 8.4 Hz, 1H, Ar—H), 6.57-6.61 (m, 2H, Ar—H), 7.30-7.36 (m, 2H, Ar—H), 7.45 (d, J=2.2 Hz, 1H, Ar—H), 7.56 (dd, J=2.2 and 9.2 Hz, 1H, Ar—H), 7.65 (t, J=7.6 Hz, 1H, Ar—H), 7.87-7.91 (m, 2H, Ar—H), 8.07 (d, J=8.3 Hz, 1H, Ar—H), 8.24 (d, J=9.1 Hz, 1H, Ar—H), 8.43 (d, J=9.2 Hz, 1H, Ar—H), 8.65 (d, J=5.1 Hz, 1H, Ar—H), 9.75 (s, 1H, benzene-NH). LC-MS (m/z) 454 (M+1).

reactant | 6-(7-methoxyquinolin-4-yloxy)-1-naphthoic acid | 0.1 mmol, 34.5 mg | COC1=CC=C2C(=CC=NC2=C1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C21H15NO4
reactant | 4-fluoro-o-phenylenediamine | 0.12 mmol, 15.1 mg | FC1=CC(=C(C=C1)N)N | C6H7FN2
product | N-(2-amino-4-fluorophenyl)-6-(7-methoxyquinolin-4-yloxy)-1-naphthamide | 33.1 mg, 73% yield | NC1=C(C=CC(=C1)F)NC(=O)C1=CC=CC2=CC(=CC=C12)OC1=CC=NC2=CC(=CC=C12)OC | C27H20FN3O3
